US06891066B2
The product of Step C, 3,4-difluoro-2-[(4-ethynyl-2-fluorophenyl)amino]benzoic acid (300 mg, 1.03 mmol), was dissolved in absolute ethanol (30 mL) and 5% Pd/C (30 mg) added. This mixture was stirred under an atmosphere of hydrogen (60 psi) for 2 hours at room temperature. The Pd/C was removed over Celite®, which was washed well with additional ethanol, then the solvent removed from the resultant filtrate under reduced pressure to afford 2-[(4-ethyl-2-fluorophenyl)amino]-3,4-difluorobenzoic acid as an off-white solid (280 mg, 92%); m.p. (EtOAc/hexanes) 199-201° C. 1H NMR [400 MHz, (CD3)2SO] δ 14.10 (br s, 1 H), 9.31 (br s, 1 H), 7.80 (ddd, J=8.5, 6.1, 1.9 Hz, 1 H), 7.09 (dd, J=12.4, 1.5 Hz, 1 H), 7.04-6.92 (m, 3 H), 2.52 (q, J=7.6 Hz, 2 H), 1.17 (t, J=7.5 Hz, 3 H).

reactant | 3,4-difluoro-2-[(4-ethynyl-2-fluorophenyl)amino]benzoic acid | 1.03 mmol, 300 mg | FC=1C(=C(C(=O)O)C=CC1F)NC1=C(C=C(C=C1)C#C)F | C15H8F3NO2
solvent | ethanol | 30 mL | C(C)O | C2H6O
catalyst | Pd/C | 30 mg | [Pd] | Pd
product | 2-[(4-ethyl-2-fluorophenyl)amino]-3,4-difluorobenzoic acid | 280 mg, 92% | C(C)C1=CC(=C(C=C1)NC1=C(C(=O)O)C=CC(=C1F)F)F | C15H12F3NO2
